US05804686
A solution of trifluoracetic anhydride (4.46 mL, 31.6 mmol) in dichloromethane (10 mL) is added dropwise to a stirred solution of 4-(methylaminomethyl)nitrobenzene (4.04g, 24.3 mmol) and pyridine (2.16 mL, 26.7 mmol) in dichloromethane (25 niL) at 0°. After stirring an additional 30 minutes, the solution is poured into aqueous 3.6N hydrochloric acid and extracted with dichloromethane. The organic layer is washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 4-[N-trifluoroacetyl-(methylaminomethyl)]nitrobenzene (6.55 g).

reactant | trifluoracetic anhydride | 31.6 mmol, 4.46 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 4-(methylaminomethyl)nitrobenzene | 24.3 mmol, 4.04g | CNCC1=CC=C(C=C1)[N+](=O)[O-] | C8H10N2O2
reactant | pyridine | 26.7 mmol, 2.16 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 3.6N | Cl | ClH
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-[N-trifluoroacetyl-(methylaminomethyl)]nitrobenzene | 6.55 g | FC(C(=O)N(C)CC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C10H9F3N2O3
